US06555700B1
A solution of z,z,z-octadeca-6,9,12-trienoyl chloride (650 mg, 2.2 mmol) in methylene chloride (10 ml) was added slowly dropwise to a mixture of pyridoxine hydrochloride (206 mg, 1 mmol), triethylamine (0.7 ml, 5 mmol) and 4-(N,N-dimethylamino)pyridine (few mg, catalytic amount) in methylene chloride (20 ml) at 0° C. under nitrogen. On completion, as indicated by tic, (4 h) the mixture was concentrated and purified by flash chromatography (ethyl acetate/hexane), yielding 2-methyl-3-hydroxy-4,5-di(z,z,z-octadeca-6,9,12-trienoyloxy)methyl pyridine as a colourless oil.

reactant | z,z,z-octadeca-6,9,12-trienoyl chloride | 2.2 mmol, 650 mg | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)Cl | C18H29ClO
reactant | pyridoxine hydrochloride | 1 mmol, 206 mg | CC1=C(C(=C(C=N1)CO)CO)O.Cl
reactant | triethylamine | 5 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-3-hydroxy-4,5-di(z,z,z-octadeca-6,9,12-trienoyloxy)methyl pyridine | CC1=NC=C(C(=C1O)COC(CCCC\C=C/C\C=C/C\C=C/CCCCC)=O)COC(CCCC\C=C/C\C=C/C\C=C/CCCCC)=O | C44H67NO5
